US08183240B2
A mixture of [bis(methylsulfanyl)methylene]malononitrile (40 g, 230 mmol), ethylthioglycolate (29 g, 230 mmol) and TEA (24 mL, 173 mmol) in MeOH (600 mL) was allowed to stir at reflux for 2 h. The reaction mixture was allowed to cool overnight and the precipitate was filtered off, washed with cold MeOH (3×50 mL) to give ethyl 3-amino-4-cyano-5-(methylsulfanyl)thiophene-2-carboxylate (52.4 g, 99%). LCMS: (FA) ES+ 275.

reactant | [bis(methylsulfanyl)methylene]malononitrile | 230 mmol, 40 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
reactant | ethylthioglycolate | 230 mmol, 29 g | C(C)C(C(=O)[O-])S
reactant | MeOH | 600 mL | CO | CH4O
product | ethyl 3-amino-4-cyano-5-(methylsulfanyl)thiophene-2-carboxylate | 52.4 g, 99% | NC1=C(SC(=C1C#N)SC)C(=O)OCC | C9H10N2O2S2
